US07888364B2
120 mg of N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-oxopiperazin-1-yl)benzamide was dissolved in 2 mL of DMF and then treated with 53 mg of paraformaldehyde, 187 mg of sodium triacetoxyborohydride and 0.2 mL of AcOH. After stirring 16 h, the reaction mixture was evaporated and the crude product was purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(4-methyl-2-oxopiperazin-1-yl)benzamide. MS (Q1) 421.3 (M)+.

reactant | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-oxopiperazin-1-yl)benzamide | 120 mg | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)N1C(CNCC1)=O)=O)C1=NC=CC=C1 | C22H19ClN4O2
reactant | paraformaldehyde | 53 mg | C=O | CH2O
reactant | sodium triacetoxyborohydride | 187 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | AcOH | 0.2 mL | CC(=O)O | C2H4O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(4-methyl-2-oxopiperazin-1-yl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)N1C(CN(CC1)C)=O)=O)C1=NC=CC=C1 | C23H21ClN4O2
